US05459152
A mixture of methyl 1,1-dimethyl-3-(pyrid-3-yl)-1H,3H-pyrrolo[1,2-c]thiazole-7-carboxylate (1.1 g, 3.8 mmol), 1N aqueous NaOH (19 mmol), and methanol (40 mL) was refluxed for 17 hours. The reaction mixture was cooled to ambient temperature and taken to pH 4 with concentrated HCl. The thick solution was extracted twice with 9:1 CHCl3, isopropanol. The combined organic layers where washed with brine, dried over MgSO4, filtered, and concentrated in vacuo to give a yellow powder. The powder was triturated with ether to afford 1,1-dimethyl-3-(pyrid-3-yl)-1H,3H-pyrrolo[1,2-c]thiazole-7-carboxylic acid as a pale-yellow powder.

reactant | methyl 1,1-dimethyl-3-(pyrid-3-yl)-1H,3H-pyrrolo[1,2-c]thiazole-7-carboxylate | 3.8 mmol, 1.1 g | CC1(C=2N(C(S1)C=1C=NC=CC1)C=CC2C(=O)OC)C | C15H16N2O2S
reactant | NaOH | 19 mmol, 1N | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | methanol | 40 mL | CO | CH4O
product | 1,1-dimethyl-3-(pyrid-3-yl)-1H,3H-pyrrolo[1,2-c]thiazole-7-carboxylic acid | CC1(C=2N(C(S1)C=1C=NC=CC1)C=CC2C(=O)O)C | C14H14N2O2S
